US07144839B2
Synthesis of 1-tert-butyl-2-methoxymethoxybenzene (Compound “5.1”)
The following reaction was carried out in an efficient fume cupboard. To a solution of 2-tert-butylphenol (322 g, 2.1 moles) dissolved in 1.5 litres of degassed HPLC grade thf (tetrahydrofuran) in a flask fitted with an efficient condenser was added chunks of sodium (52 g, excess) and the reaction mix allowed to react for 3 hours then refluxed overnight to complete the reaction. A solution of MOMCl was formed in a 3 litre, 3 neck flask fitted with an efficient double surfaced condenser, pressure equalizing dropping funnel and a nitrogen inlet in a water bath at RT by the slow addition of AcCl (205 g, 2.6 moles) to dimethoxymethane (229 g, 3.0 moles) with a catalytic amount of ZnCl2 (2 g). Caution MOMCl is a known carcinogen and the reaction is exothermic!! After addition of the AcCl the reaction mixture is stirred for 30 minutes and the dropping funnel replaced with a septum. The thf solution of sodium phenolate added by cannula and the reaction mix stirred for 1 hour to complete the reaction. The reaction minx is deactivated by the addition of 500 mls of 2 M NaOH solution and stirring for a further 60 minutes to decompose excess MOMCl. Ether (500 mls) is added and the phases separated. The organic phase was washed with 3×500 mls of distilled water and dried over MgSO4, filtered and the ether removed on a Rota-Vap. The unreacted phenol was removed by passage through a basic alumina column using hexane as elutriation solvent. The recovered material (compound “5.1”) was purified by flash distillation under reduced pressure, 67–68° C. 0.4 mm Hg. Yield 287 g (74%). 1H-NMR (250 MHz, CDCl3) δ 1.420(s, 9H, C(CH3)3), 3.519(s, 3H, OMe), 5.253(s, 2H, OCH2O), 6.92–7.33(m, 4H, Ar—H).

reactant | AcCl | 2.6 moles, 205 g | C(=O)(C)Cl | C2H3ClO
reactant | dimethoxymethane | 3.0 moles, 229 g | COCOC | C3H8O2
reactant | MOMCl | C(OC)Cl | C2H5ClO
reactant | sodium phenolate | C1(=CC=CC=C1)[O-].[Na+]
reactant | NaOH | 2 M, 500 mls | [OH-].[Na+]
reactant | thf | O1CCCC1 | C4H8O
catalyst | ZnCl2 | 2 g | [Cl-].[Cl-].[Zn+2]
solvent | Ether | 500 mls | CCOCC | C4H10O
product | 1-tert-butyl-2-methoxymethoxybenzene | C(C)(C)(C)C1=C(C=CC=C1)OCOC | C12H18O2
